US08609647B2
(7) Optically-Active Compound of 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-hydroxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of an optically-active compound of 3-benzyloxycarbonylamino-3-(1,1-difluoroallyl)pyrrolidine-1-carboxylic acid tert-butyl ester (15.5 g) in chloroform/methanol (154 ml/154 ml) cooled to −78° C. was flowed ozone air for 30 minutes. To the reaction mixture was added sodium borohydride (4.14 g) in small batches, and then the mixture was warmed to 0° C. and stirred at the same temperature for additional 4 hours. To the mixture were added saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, and the mixture was extracted with chloroform. The separated aqueous layer was extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=3/1). The fractions which could not be separated and isolated were concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluent: n-hexane/chloroform/ethyl acetate=5/4/1) again. The purified fractions were combined and concentrated under reduced pressure to give the titled compound (12.8 g).

reactant | 3-benzyloxycarbonylamino-3-(1,1-difluoroallyl)pyrrolidine-1-carboxylic acid tert-butyl ester | 15.5 g | C(C)(C)(C)OC(=O)N1CC(CC1)(C(C=C)(F)F)NC(=O)OCC1=CC=CC=C1 | C20H26F2N2O4
reactant | ozone | O=[O+][O-] | O3
reactant | sodium borohydride | 4.14 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | chloroform methanol | 154 ml | C(Cl)(Cl)Cl.CO
product | 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-hydroxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester | 12.8 g | C(C)(C)(C)OC(=O)N1CC(CC1)(C(CO)(F)F)NC(=O)OCC1=CC=CC=C1 | C19H26F2N2O5
